US05194437
2-(ind-1-en-1-yl)-acetic acid was prepared according to the method of H. Ahmed and N. Campbell J.C.S. (1960), 4115-4120, in a yield of 90%, from ethyl 2-(indan-1-ylidene)-acetate, which was itself prepared in a yield of 48% from indan-1-one and (C6H5)3P=CH--COOC2H5 in toluene.

reactant | ethyl 2-(indan-1-ylidene)-acetate | C1(CCC2=CC=CC=C12)=CC(=O)OCC | C13H14O2
reactant | indan-1-one | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | (C6H5)3P | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(ind-1-en-1-yl)-acetic acid | yield of 90% | C1(=CCC2=CC=CC=C12)CC(=O)O | C11H10O2
